US07595323B2
N-[5-(4-chloromethylbenzoylamino)-2-methylphenyl]-4-(3-pyridyl)-2-pyrimidine-amine (1 g, 2.33 mmol) was dissolved in tetrahydrofuran (20 ml), pyridine (360 μl, 4.66 mmol) was added thereto, and the mixture was stirred for 30 minutes. 1-Amino-4-methylpiperazine (418 μl, 3.49 mmol) was added, and the mixture was refluxed for 12 hours and filtered. The filtrate was concentrated, subjected to column chromatography (eluent: chloroform:methanol=3:1(v/v)), concentrated again, and then crystallized from dimethylether to give 4-(4-methylpiperazin-1-ylaminomethyl)-N-[4-methyl-3-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide (880 mg).

reactant | N-[5-(4-chloromethylbenzoylamino)-2-methylphenyl]-4-(3-pyridyl)-2-pyrimidine-amine | 2.33 mmol, 1 g | ClCC1=CC=C(C(=O)NC=2C=CC(=C(C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C24H20ClN5O
reactant | pyridine | 4.66 mmol, 360 μl | N1=CC=CC=C1 | C5H5N
reactant | 1-Amino-4-methylpiperazine | 3.49 mmol, 418 μl | NN1CCN(CC1)C | C5H13N3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-methylpiperazin-1-ylaminomethyl)-N-[4-methyl-3-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide | 880 mg | CN1CCN(CC1)NCC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C29H32N8O
